US04487929
In a manner analogous to that described in Example 7(B) (b), from 2.7 g of 4-benzyl-4-[2-(tetrahydro-2-pyranyloxy)ethyl]pyrazolidine-3,5-dione and 1.05 g of methyl penta-2,4-dienoate there were obtained 1.2 g (34%) of methyl 2-benzyl-2,3,5,8-tetrahydro-1,3-dioxo-2-[2-(tetrahydro-2-pyranyloxy)ethyl]-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate in the form of a white solid having a melting point of 113°-114° C. (from diethyl ether).

reactant | 4-benzyl-4-[2-(tetrahydro-2-pyranyloxy)ethyl]pyrazolidine-3,5-dione | 2.7 g | C(C1=CC=CC=C1)C1(C(NNC1=O)=O)CCOC1OCCCC1 | C17H22N2O4
reactant | methyl penta-2,4-dienoate | 1.05 g | C(C=CC=C)(=O)OC | C6H8O2
product | methyl 2-benzyl-2,3,5,8-tetrahydro-1,3-dioxo-2-[2-(tetrahydro-2-pyranyloxy)ethyl]-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 1.2 g, 34% | C(C1=CC=CC=C1)C1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)CCOC1OCCCC1 | C23H28N2O6
